US07087750B2
Methyl 2-{[4-(1-piperazinyl)-1H-indol-1-yl]sulfonyl}phenyl sulfone hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 2-methylsulfonyl-phenylsulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.22 (br, 1 H), 8.29 (d, J=-8 Hz, 1 H), 7.99 (t, J=8 Hz, 1 H), 7.90–7.80 (m, 2 H), 7.43 (d, J=8 Hz, 1 H), 7.3 0–7.15 (m, 2 H), 7.04 (d, J=3 Hz, 1 H), 6.85 (d, J=8 Hz, 1 H), 3.56 (s, 3 H), 3.29 (m, 8 H); MS (ESI+) for m/z 420 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 2-methylsulfonyl-phenylsulfonyl chloride | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | Methyl 2-{[4-(1-piperazinyl)-1H-indol-1-yl]sulfonyl}phenyl sulfone hydrochloride | Cl.N1(CCNCC1)C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | InChI=1S/C19H21N3O4S2.ClH/c1-27(23,24)18-7-2-3-8-19(18)28(25,26)22-12-9-15-16(5-4-6-17(15)22)21-13-10-20-11-14-21;/h2-9,12,20H,10-11,13-14H2,1H3;1H
